US04479002
To a solution of 62 g (0.6 mole) of sulfur dichloride in 200 ml of methylene chloride cooled to 0° C. under a nitrogen atmosphere was added a solution of 75 g (0.4 mole) of 2-ethylhexyl N-methylcarbamate and 44.5 g (0.44 mole) of triethylamine in 100 ml of methylene chloride at -10° to 3° C. The addition took 2 hr. After stirring for 1 hr at 5° C., the mixture was filtered under a positive nitrogen atmosphere, and the filtrate was concentrated. The product was extracted into 200 ml of hexanes and the solid triethylamine hydrochloride was filtered. The filtrate was concentrated to give 105.4 g of 2-ethylhexyl N-chlorothio-N-methylcarbamate.

reactant | sulfur dichloride | 0.6 mole, 62 g | S(Cl)Cl | Cl2S
reactant | 2-ethylhexyl N-methylcarbamate | 0.4 mole, 75 g | CNC(OCC(CCCC)CC)=O | C10H21NO2
reactant | triethylamine | 0.44 mole, 44.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-ethylhexyl N-chlorothio-N-methylcarbamate | 105.4 g | ClSN(C(OCC(CCCC)CC)=O)C | C10H20ClNO2S
